US05882628
b. N,N'-Bis(2-hydroxypropionyl)-3,5-diamino-2,4,6-triiodobenzylalcohol
N,N'-Bis(2-acetoxypropionyl)-3,5-diamino-2,4,6-triiodobenzylacetate (0.16 g, 0.2 mmol) was dissolved in a mixture of methanol (5 ml) and water (5 ml) and the pH was adjusted to 12 using a 1M aqueous solution of NaOH. After stirring for 15 h, the solution was neutralized with 1M HCl and the solvents were removed by evaporation. Purification by preparative HPLC gave 61 mg (46%) of the pure product.

reactant | N,N'-Bis(2-acetoxypropionyl)-3,5-diamino-2,4,6-triiodobenzylacetate | 0.2 mmol, 0.16 g | C(C)(=O)OC(C(=O)NC=1C(=C(CCC(=O)[O-])C(=C(C1I)NC(C(C)OC(C)=O)=O)I)I)C
reactant | NaOH | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | N,N'-Bis(2-hydroxypropionyl)-3,5-diamino-2,4,6-triiodobenzylalcohol | 61 mg, 46% | OC(C(=O)NC=1C(=C(CO)C(=C(C1I)NC(C(C)O)=O)I)I)C | C13H15I3N2O5
